US07456176B2
Synthesis of 3-(3-amino-5-methyl-benzo[1,2,4]triazin-7-yl)-4-chloro-phenol
7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.158 g, 0.527 mmol, 1 equiv) was diluted with 10 mL DCM and chilled to 0° C. using an ice bath. A 1.0 M solution of BBr3 in DCM (3.16 mL, 3.16 mmol, 6.0 equiv) was then added in one portion resulting in a dark reaction mixture. The reaction was allowed to come to ambient temperature and stirred for 3.5 hours, then quenched by carefully pouring onto a saturated solution of sodium bicarbonate followed by sonication for 3-5 minutes. Additional DCM was added and this mixture was washed with sodium bicarbonate followed by brine. The organic phase was separated, dried over sodium sulfate (Na2SO4), filtered and evaporated to dryness. Solids were then diluted with minimum amount of ethyl acetate and precipitated out with hexanes. Product was filtered off and dried to yield a yellow solid (0.110 g, 73% yield). MS (ESI+): m/z 287.1, LC retention time: 2.46 min.

reactant | 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.527 mmol, 0.158 g, 1 equiv | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C15H13ClN4O
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.16 mmol, 3.16 mL, 6.0 equiv | C(Cl)Cl | CH2Cl2
product | 3-(3-amino-5-methyl-benzo[1,2,4]triazin-7-yl)-4-chloro-phenol | 0.110 g, 73% yield | NC=1N=NC2=C(N1)C(=CC(=C2)C=2C=C(C=CC2Cl)O)C | C14H11ClN4O
